US05807873
To a solution of 350 g of (Z)-3-ethoxycarbonyl-4-(4-chloro phenyl)-4-(4-methanesulfonylphenyl)-3-butenoic acid, prepared in Example 63, in 1.5 l of tetrahydrofuran are added dropwise, and with good stirring, 120 ml of borane/dimethyl sulfide complex. At the end of the addition, the solution is stirred for 2.5 hours at room temperature. The borane in excess is hydrolyzed with 100 ml of methanol and 100 ml of water. After evaporation of the solvent under vacuum, the residue is crystallized in water, filtered and washed with water to give ethyl (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)-2-propenoate in the form of moist crystals which are used as such in the next step. By drying these crystals and recrystallizing them in propan-2-ol, ethyl (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)-2-propenoate is obtained in the form of crystals of HPLC purity 98.3% and of melting point 128° C.

reactant | (Z)-3-ethoxycarbonyl-4-(4-chloro phenyl)-4-(4-methanesulfonylphenyl)-3-butenoic acid | 350 g | C(C)OC(=O)\C(\CC(=O)O)=C(\C1=CC=C(C=C1)S(=O)(=O)C)/C1=CC=C(C=C1)Cl | C20H19ClO6S
reactant | borane | B | BH3
reactant | methanol | 100 ml | CO | CH4O
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 1.5 l | O1CCCC1 | C4H8O
product | ethyl (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)-2-propenoate | ClC1=CC=C(C=C1)\C(=C(/C(=O)OCC)\CCO)\C1=CC=C(C=C1)S(=O)(=O)C | C20H21ClO5S
